US06596719B1
12.15 g sodium methylate was dissolved in 200 ml methanol and 21.1 g dimethyl-(o-methoxyphenoxy)malonate was added. Stirring was continued for 130 min. The mixture was cooled to 10° C. and 7.6 g thiourea was added. Stirring was continued for 24 h. The solvent was evaporated in vacuo. The residue was stirred with diethyl ether. The ether layer was filtered off and the solid was dissolved in 60 ml water and acidified to pH=4 with conc. acetic acid. The precipitated product was filtered and washed with methanol and dried at 30° C. and reduced pressure to give 19.8 g 5-(o-methoxyphenoxy)-2-thioxo-dihydro-pyrimidine-4,6-dione (or a tautomere thereof.

reactant | sodium methylate | 12.15 g | C[O-].[Na+]
reactant | dimethyl-(o-methoxyphenoxy)malonate | 21.1 g | COC(C(C(=O)OC)OC1=C(C=CC=C1)OC)=O | C12H14O6
reactant | thiourea | 7.6 g | NC(=S)N | CH4N2S
solvent | methanol | 200 ml | CO | CH4O
product | 5-(o-methoxyphenoxy)-2-thioxo-dihydro-pyrimidine-4,6-dione | 19.8 g | COC1=C(OC2C(NC(NC2=O)=S)=O)C=CC=C1 | C11H10N2O4S
